US04866091
A mixture of diethyl 5-(2,4-difluorophenoxy)-2-methyl-4-nitrobenzoylmalonate (2.1 g) and sulfuric acid (1 ml) in acetic acid (6 ml) and water (5 ml) was refluxed for hours. The reaction mixture was neutralized with an aqueous solution of sodium hydroxide, and extracted with ethyl acetate. The extract was washed with water, dried and concentrated. The oily residue was purified by column chromatography on silica gel (25 g) eluting with a mixture of toluene and ethyl acetate (10:1) to give crystals of 5'-(2,4-difluorophenoxy)-2'-methyl-4'-nitroacetophenone (0.69 g).

reactant | diethyl 5-(2,4-difluorophenoxy)-2-methyl-4-nitrobenzoylmalonate | 2.1 g | FC1=C(OC=2C(=CC(=C(C(=O)C(C(=O)OCC)C(=O)OCC)C2)C)[N+](=O)[O-])C=CC(=C1)F | C21H19F2NO8
reactant | sulfuric acid | 1 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydroxide | [OH-].[Na+]
solvent | acetic acid | 6 ml | C(C)(=O)O | C2H4O2
solvent | water | 5 ml | O | H2O
product | 5'-(2,4-difluorophenoxy)-2'-methyl-4'-nitroacetophenone | 0.69 g | FC1=C(OC=2C(=CC(=C(C2)C(C)=O)C)[N+](=O)[O-])C=CC(=C1)F | C15H11F2NO4
